US06878728B1
(3R,3aS,6aR)-Hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-1-[4-(4-{[tert-butyl(dimethyl)silyl]oxy}butoxy)benzyl]-2-hydroxypropylcarbamate
To a solution of (3R,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxy-1-(4-hydroxybenzyl)propylcarbamate (0.6 g, 1.01 mmol), triphenyl phosphine (0.4 g, 1.52 mmol), and 4-{[tert-butyl(dimethyl)silyl]oxy}-1-butanol (0.31 g, 1.52 mmol, J. Org. Chemn. 1986, 51, 3388-3390) in anhydrous dichloromethane (9 mL) at 0° C. under nitrogen atmosphere was slowly added a solution of diisopropyl azodicarboxylate (0.29 mL, 0.3 g, 1.52 mmol) in anhydrous dichloromethane (2 mL) and the mixture was stirred at ambient temperature for 2 h. Solvent was evaporated and the residue was purified by chromatography (silica gel, hexanes/ethyl acetate, 1:1) to provide the title compound as a solid foam (0.39 g). 1H NMR (DMSO-d6): δ 0.0 (6H, s), 0.78 (3H, d), 0.80 (3H, d), 0.82 (9H, s), 1.22 (1H, dd), 1.4 (1H, quintuplet), 1.55 (2H, quintuplet), 1.7 (2H, quintuplet), 1.8-1.9 (1H, m), 2.35 (1H, t), 2.65-2.80 (3H, m), 2.9 (1H, d), 3.0 (1H, dd), 3.2-3.3 (2H, m), 3.4-3.5 (1H, m), 3.52-3.62 (4H, m), 3.7 (1H, t), 3.8 (1H, dd), 3.9 (2H, t), 4.8 (1H, dt), 5.0 (1H, br s), 5.5 (1H, d), 6.18 (2H, s), 6.77 (2H, d), 7.0-7.1 (3H, m), 7.19 (1H, d), 7.21 (1H, s), 7.3 (1H, d); MS: 801 (M+23); C38H58N2O11SSi.

reactant | (3R,3aS,6aR)-hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-2-hydroxy-1-(4-hydroxybenzyl)propylcarbamate | 1.01 mmol, 0.6 g | O1COC2=C1C=CC(=C2)S(=O)(=O)N(C[C@H]([C@H](CC2=CC=C(C=C2)O)NC(O[C@H]2CO[C@H]1OCC[C@H]12)=O)O)CC(C)C | C28H36N2O10S
reactant | triphenyl phosphine | 1.52 mmol, 0.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-{[tert-butyl(dimethyl)silyl]oxy}-1-butanol | 1.52 mmol, 0.31 g | [Si](C)(C)(C(C)(C)C)OCCCCO | C10H24O2Si
reactant | diisopropyl azodicarboxylate | 1.52 mmol, 0.29 mL, 0.3 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | dichloromethane | 9 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | (3R,3aS,6aR)-Hexahydrofuro[2,3-b]furan-3-yl (1S,2R)-3-[(1,3-benzodioxol-5-ylsulfonyl)(isobutyl)amino]-1-[4-(4-{[tert-butyl(dimethyl)silyl]oxy}butoxy)benzyl]-2-hydroxypropylcarbamate | O1COC2=C1C=CC(=C2)S(=O)(=O)N(C[C@H]([C@H](CC2=CC=C(C=C2)OCCCCO[Si](C)(C)C(C)(C)C)NC(O[C@H]2CO[C@H]1OCC[C@H]12)=O)O)CC(C)C | C38H58N2O11SSi
